US05646313
Preparation of methyl 3-(RS)-N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]aminobutanoate
The (E)-2-acetylthiomethyl-3-phenylpropenoic acid described in Example 1 (step C) is coupled with methyl 3-(RS)-aminobutanoate according to the experimental procedure described in Example 1 (step D).

reactant | (E)-2-acetylthiomethyl-3-phenylpropenoic acid | C(C)(=O)SC\C(\C(=O)O)=C\C1=CC=CC=C1 | C12H12O3S
reactant | methyl 3-(RS)-aminobutanoate | NC(CC(=O)OC)C | C5H11NO2
product | methyl 3-(RS)-N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]aminobutanoate | O=C(/C(=C\C1=CC=CC=C1)/CSC(C)=O)NC(CC(=O)OC)C | C17H21NO4S
